US04956470
0.86 g of 1-benzylideneamino-2,3-dimethylimidazolium tetrafluoroborate is suspended in 30 ml of water. The suspension is treated with 1 ml of 50 percent tetrafluoroboric acid and steam-distilled until benzaldehyde no longer passes over. The colorless acidic solution is then treated with 0.45 g of p-(dimethylamino)benzaldehyde and stirred at room temperature for 3 hours. The resulting orange-yellow precipitate is removed by filtration under suction, washed three times with water and three times with diethyl ether and recrystallized from methanol/ethanol. There is obtained 1-[[p-(dimethylamino)benzylidene[amino[-2,3-dimethylimidazolium tetrafluoroborate in the form of yellow needles with a melting point of 248°-251°.

reactant | 1-benzylideneamino-2,3-dimethylimidazolium tetrafluoroborate | 0.86 g | F[B-](F)(F)F.C(C1=CC=CC=C1)=N[N+]1=C(N(C=C1)C)C
reactant | tetrafluoroboric acid | 1 ml | F[B-](F)(F)F.[H+]
solvent | water | 30 ml | O | H2O
product | 2,3-dimethylimidazolium tetrafluoroborate | F[B-](F)(F)F.CC1=[NH+]C=CN1C | InChI=1S/C5H8N2.BF4/c1-5-6-3-4-7(5)2;2-1(3,4)5/h3-4H,1-2H3;/q;-1/p+1
